US06521666B1
6-Methoxy-2-methoxymethoxybenzeneboronic acid (1.92 g) was coupled with N-(2,6-dichlorobenzoyl)-O-(trifluoromethanesulfonyl)-L-tyrosine ethyl ester in a similar procedure as described in Example 5-3) to afford N-(2,6-dichlorobenzoyl)-4-(6-methoxy-2-methoxymethoxyphenyl)-L-phenylalanine ethyl ester (0.942 mg). ESMS m/Z 532 (MH+), 530 (M−H)−.

reactant | 6-Methoxy-2-methoxymethoxybenzeneboronic acid | 1.92 g | COC1=CC=CC(=C1B(O)O)OCOC | C9H13BO5
reactant | N-(2,6-dichlorobenzoyl)-O-(trifluoromethanesulfonyl)-L-tyrosine ethyl ester | C(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)=O | C19H16Cl2F3NO6S
product | N-(2,6-dichlorobenzoyl)-4-(6-methoxy-2-methoxymethoxyphenyl)-L-phenylalanine ethyl ester | 0.942 mg | C(C)OC([C@@H](NC(C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1OC)OCOC)=O | C27H27Cl2NO6
